US04584307
Preparation of 2-(2,4-difluorophenyl)-3-methyl-4,4,5,5,5-pentafluoro-1-(1H-1,2,4-triazol-1-yl)pentane-2,3-diol
2-(2,4-Difluorophenyl)-2-hydroxy-4,4,5,5,5-pentafluoro-1-(1H-1,2,4-triazol-1-yl)pentan-3-one (0.5 g; 0.00135 moles) was dissolved in sodium-dried diethyl ether (50 cm3) and methylmagnesium bromide (1.35 cm3 of a 3M solution in ether; 0.00405 moles) was added. Dry tetrahydrofuran (15 cm3) was then added. The mixture was heated at reflux for 2 hours, cooled and 5% aqueous ammonium chloride (50 cm3) was added, followed by ethyl acetate (100 cm3). The phases were separated and the organic phase was dried (MgSO4) and evaporated. The residue was purified by flash column chromatography on 230-400 mesh silica, eluting with ethyl acetate:diethylamine (95:5, 500 cm3). Two diastereomers were recovered by collection and evaporation of appropriate fractions. The first diastereomer to be eluted was called diastereomer I.

reactant | 2-(2,4-Difluorophenyl)-2-hydroxy-4,4,5,5,5-pentafluoro-1-(1H-1,2,4-triazol-1-yl)pentan-3-one | 0.00135 moles, 0.5 g | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(C(C(C(F)(F)F)(F)F)=O)O | C13H8F7N3O2
reactant | methylmagnesium bromide | C[Mg]Br
reactant | tetrahydrofuran | 15 cm3 | O1CCCC1 | C4H8O
reactant | ammonium chloride | 50 cm3 | [Cl-].[NH4+]
solvent | sodium | 50 cm3 | [Na] | Na
solvent | ether | CCOCC | C4H10O
solvent | ethyl acetate | 100 cm3 | C(C)(=O)OCC | C4H8O2
product | 2-(2,4-difluorophenyl)-3-methyl-4,4,5,5,5-pentafluoro-1-(1H-1,2,4-triazol-1-yl)pentane-2,3-diol | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(C(C(C(F)(F)F)(F)F)(O)C)O | C14H12F7N3O2
